US03959322
dl-13-Ethyl-17β-hydroxy-6α-methylgon-4-en-3-one
Stir dl-3-methoxy-17β-hydroxy-6-methyl-13-ethylgona-2,5(10)-diene (1.0 g) in methanol (54 cc) containing concentrated hydrochloric acid (3.6 cc) and water (2.4 cc) under nitrogen for 1.5 hours. Pour into brine, extract with ether and isolate the crude product. Chromatograph on Grade I neutral alumina (50 g) and recrystallize from ether-hexane to obtain the title compound (0.30 g), m.p. 127°-130°, λ max. KBr 2.98 μ, 6.03 μ; λ max. EtOH 240 mμ (ε16,500).

reactant | 3-methoxy-17β-hydroxy-6-methyl-13-ethylgona-2,5(10)-diene | 1.0 g | COC=1CC=2C(C[C@@H]3[C@H](CC[C@@]4([C@H](CC[C@@H]34)O)CC)C2CC1)C | C21H32O2
reactant | hydrochloric acid | 3.6 cc | Cl | ClH
reactant | water | 2.4 cc | O | H2O
solvent | methanol | 54 cc | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 13-Ethyl-17β-hydroxy-6α-methylgon-4-en-3-one | 0.30 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1[C@H](C2)C)=O)O | C20H30O2
